US04061669
A 20.6 g sample of sodium p-styrenesulfonate was dissolved in 100 g of water. 14.4 g of p-toluidine hydrochloride was added to the resulting solution to precipitate a solid. The solid was filtered and was dissolved in 100 cc of aqueous solution containing 20 cc of 28.8% NH3 solution. As a result, ammonium p-styrenesulfonate was obtained in a conversion of 76%.

reactant | sodium p-styrenesulfonate | C=CC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+]
reactant | p-toluidine hydrochloride | 14.4 g | Cl.NC1=CC=C(C=C1)C
solvent | water | 100 g | O | H2O
product | ammonium p-styrenesulfonate | C=CC1=CC=C(C=C1)S(=O)(=O)[O-].[NH4+] | InChI=1S/C8H8O3S.H3N/c1-2-7-3-5-8(6-4-7)12(9,10)11;/h2-6H,1H2,(H,9,10,11);1H3
